* created by vws 9/28/2009
* 4/21/2016 - added IDEAL_B6CI subcircuit
* 11/30/2017 - added B6CI_PWM subcircuit (experimental)

.subckt IDEAL_IGBT G C K E A
S1 P001 C G 0 smod
D1 A K D
D2 P001 E D
.model D D
.model smod vswitch(ron = 0.001, voff = 0, von = 1, roff = 10meg)
.lib ..\cmp\standard.dio
.ends IDEAL_IGBT


.subckt IDEAL_Halfbridge G+ C1 K1 AC E2 A2
S1 P001 C1 G+ 0 smod1
D1 AC K1 D
D2 P001 AC D
S2 P002 AC G+ 0 smod2
D3 A2 AC D
D4 P002 E2 D
.model D D
.lib ..\cmp\standard.dio
.model smod1 vswitch(ron = 0.001, voff = 0, von = 1, roff = 10meg)
.model smod2 vswitch(ron = 0.001, voff = 1, von = 0, roff = 10meg)
.ends IDEAL_IGBT_Halfbridge


.subckt IDEAL_B6CI DC+ DC- AC1 AC2 AC3 G1 G2 G3
S1 P001 DC+ G1 0 smod1
D1 AC1 DC+ D
D2 P001 AC1 D
S2 P002 AC1 G1 0 smod2
D3 DC- AC1 D
D4 P002 DC- D
S3 P003 DC+ G2 0 smod1
D5 AC2 DC+ D
D6 P003 AC2 D
S4 P004 AC2 G2 0 smod2
D7 DC- AC2 D
D8 P004 DC- D
S5 P005 DC+ G3 0 smod1
D9 AC3 DC+ D
D10 P005 AC3 D
S6 P006 AC3 G3 0 smod2
D11 DC- AC3 D
D12 P006 DC- D
.model D D
.lib ..\cmp\standard.dio
.model smod1 vswitch(ron = 0.001, voff = 0, von = 1, roff = 10meg)
.model smod2 vswitch(ron = 0.001, voff = 1, von = 0, roff = 10meg)
.ends IDEAL_B6CI


* experimental
.subckt B6CI_PWM
V2 VA 0 SINE(0 {m} {fout} 0 0 0)
V3 VTRI 0 PULSE(-1 1 0 {1/(2*fsw)} {1/(2*fsw)} 0 {1/fsw})
V4 VB 0 SINE(0 {m} {fout} 0 0 120)
V5 VC 0 SINE(0 {m} {fout} 0 0 240)
B1 VgA 0 V={if(V(VA)>V(VTRI),1,0)}
B2 VgB 0 V={if(V(VB)>V(VTRI),1,0)}
B3 VgC 0 V={if(V(VC)>V(VTRI),1,0)}
.param fout = 60
.param fsw=3k
.param m = 0.99
.backanno
.ends